US07939528B2
A solution of 2,2,2-trifluoro-N-{4-fluoro-5-[(4-formylphenyl)oxy]-2-nitrophenyl}acetamide (0.300 g, 0.806 mmol), 2-aminoindane (0.161 g, 1.21 mmol), and acetic acid (0.5 mL) in CH2Cl2 (3 mL) was stirred for 30 min and then Na(OAc)3BH (0.205 g, 0.967 mmol) was added slowly over 2 min. The reaction mixture stirred for 1 hour at ambient temperature and then H2O (3 mL) was added. The layers were separated and the aqueous layer extracted one additional time with CH2Cl2. The combined organics were washed 1× brine, then dried (Na2SO4), filtered and concentrated to give ({4-[(5-Amino-2-fluoro-4-nitrophenyl)oxy]phenyl}methyl)2,3-dihydro-1H-inden-2-ylamine. No further purification was necessary.

reactant | 2,2,2-trifluoro-N-{4-fluoro-5-[(4-formylphenyl)oxy]-2-nitrophenyl}acetamide | 0.806 mmol, 0.300 g | FC(C(=O)NC1=C(C=C(C(=C1)OC1=CC=C(C=C1)C=O)F)[N+](=O)[O-])(F)F | C15H8F4N2O5
reactant | 2-aminoindane | 1.21 mmol, 0.161 g | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | Na(OAc)3BH | 0.967 mmol, 0.205 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 3 mL | O | H2O
product | ({4-[(5-Amino-2-fluoro-4-nitrophenyl)oxy]phenyl}methyl)2,3-dihydro-1H-inden-2-ylamine | NC=1C(=CC(=C(C1)OC1=CC=C(C=C1)CNC1CC2=CC=CC=C2C1)F)[N+](=O)[O-] | C22H20FN3O3
